US07977331B1
To a solution of tert-butyl (S)-3-(2-methoxyethyl)piperidine-1-carboxylate (64 g, 263 mmol) in ethyl acetate (100 ml) was added 4N HCl-ethyl acetate solution (320 ml), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure to give (S)-3-(2-methoxyethyl)piperidine hydrochloride as a crude product (46.7 g, yield 98%). The obtained crude product was used for Step 4 without further purification.

reactant | tert-butyl (S)-3-(2-methoxyethyl)piperidine-1-carboxylate | 263 mmol, 64 g | COCC[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C13H25NO3
reactant | HCl ethyl acetate | 4N, 320 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (S)-3-(2-methoxyethyl)piperidine hydrochloride | Cl.COCC[C@H]1CNCCC1 | InChI=1S/C8H17NO.ClH/c1-10-6-4-8-3-2-5-9-7-8;/h8-9H,2-7H2,1H3;1H/t8-;/m0./s1
